US04325959
A slurry of 3.0 grams of 1-((4-(((5-methyl-1,3,4-thiadiazol-2-yl)thio)methyl)benzoyl)oxy)-2,5-pyrrolidinedione (0.0083 mole) was treated with 50 ml of methanol saturated with dimethylamine. After the mixture of methanol-dimethylamine went into solution, the reaction mixture was concentrated and a viscous oil obtained. Crystals formed upon drying the viscous oil in vacuo. Further purification gave the product N,N-dimethyl-4-(((5-methyl-1,3,4-thiadiazol-2-yl)thio)methyl)benzamide, confirmed by nuclear magnetic resonance, as a white solid having a melting point of 75°-80° C.

reactant | 1-((4-(((5-methyl-1,3,4-thiadiazol-2-yl)thio)methyl)benzoyl)oxy)-2,5-pyrrolidinedione | 0.0083 mole, 3.0 grams | CC1=NN=C(S1)SCC1=CC=C(C(=O)ON2C(CCC2=O)=O)C=C1 | C15H13N3O4S2
reactant | dimethylamine | CNC | C2H7N
reactant | methanol dimethylamine | CO.CNC
solvent | methanol | 50 ml | CO | CH4O
product | N,N-dimethyl-4-(((5-methyl-1,3,4-thiadiazol-2-yl)thio)methyl)benzamide | CN(C(C1=CC=C(C=C1)CSC=1SC(=NN1)C)=O)C | C13H15N3OS2
